US07598258B2
N-{4-[(6,7-Dimethoxy-4-qui nolyl)oxy]-2,3-dimethylphenyl}-N′-[(1R)-1-(4-fluorophenyl)ethyl]urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline (30 mg) was dissolved in chloroform (1 ml) and triethylamine (0.1 ml) to prepare a solution. A solution of triphosgene (35 mg) in chloroform (0.2 ml) was then added to the solution, and the mixture was stirred at room temperature for one hr. Next, a solution of (1R)-1-(4-fluorophenyl)ethylamine (35 mg) in chloroform (0.2 ml) was added thereto, and the mixture was stirred at room temperature for 10 hr. The stirred mixture was purified by chromatography on silica gel using chloroform/methanol for development to give the title compound (37 mg, yield 81%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline | 30 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 35 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (1R)-1-(4-fluorophenyl)ethylamine | 35 mg | FC1=CC=C(C=C1)[C@@H](C)N | C8H10FN
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.2 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-qui nolyl)oxy]-2,3-dimethylphenyl}-N′-[(1R)-1-(4-fluorophenyl)ethyl]urea | 37 mg, yield 81% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(=O)N[C@H](C)C1=CC=C(C=C1)F)C)C | C28H28FN3O4
